data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N+:21](=C)C.C[N:10]=CN(C)[Si-](C)(C)(C)Cl>>[H:20][N+:10](=CN(C)[Si-](C)(C)(C)Cl)C.C[N:21]=C 10=20;20,21=21
C[O+:11]=[CH:10]O>>C[O:11][CH+:10]O 10,11=11
CC(=O)OCC1C2C(C(C(O1)OCC=C)OC(=O)C)[OH+:21][C:20]([O:10]2)(C)C.CC(=O)[O-].O>>C[C:20](=[O+:10]C1C(OC(C(C1[OH:21])OC(=O)C)OCC=C)COC(=O)C)C.CC(=O)[O-].O 10=20;20,21=21
C[C:20](=[O:21])C.[CH2-:10]C1=CC=NC=C1>>C[C:20](C)([CH2:10]C1=CC=NC=C1)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)C(=O)O[C:13]2=[CH:12][CH:11]=[CH:10]C=C2.[Br:20][Br:21]>>C1=CC=C(C=C1)C(=O)O[C+:13]2C=C[CH:10]([CH:11]=[CH:12]2)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
C[CH:11]([C:10]1(C(=O)CC[C:20]1=[O:21])C)[O-:12]>>C[CH:11]=[O:12].C[C:10]1=[C:20](CCC1=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC1=CC=C(C=C1)C2CC3(C(CCC3=O)C4C2=C5CCC(=[O:10])C=C5CC4)C.C[C:20](=[O:21])Br>>CC1=CC=C(C=C1)C2CC3(C(CCC3=O)C4C2=C5CCC(=[O+:10][C:20](C)([O-:21])Br)C=C5CC4)C 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C#N.[Br:20][Br:21]>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[Br:20])C#N.[Br-:21] 10,11=10,20;20,21=21
[H:20][O:21]CCCOC1=CC(=CC=C1)C#N.[H:10][Na:11].C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=NC(=N4)[N+](=O)[O-]>>C1=CC(=CC(=C1)C#N)OCCC[O-:21].[H:10][H:20].[Na+:11].C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=NC(=N4)[N+](=O)[O-] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(=O)OC(=[O:10])C>>[H:20][O+:10]=C(C)OC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[CH:20](=[NH2+:21])[OH:10]>>[CH:20](=[OH+:10])[NH2:21] 10=20;20,21=21
C1=CC=C(C=C1)OCCC[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>C1=CC=C(C=C1)OCCC[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CCC(CC1)([OH:10])OCCO>>[H:20][OH+:10]C1(CCCCC1)OCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=C(C=C[C+:22]1N)C)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].CC1=C[C:21](=[C:22](C=C1)N)N=NC2=CC=CC=C2 10=20;20,21=21,22
C[CH:20]=[N+:21](C)C.[Cl-:10]>>C[CH:20]([N:21](C)C)[Cl:10] 10=20;20,21=21
C#CC(C1=CC=C(C=C1)OCCCCC2=CN(C=N2)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[OH+:11][Mg-:10](O)Br>>C#CC(C1=CC=C(C=C1)OCCCCC2=CN(C=N2)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[OH:11].O[Mg:10]Br 10,11=11
[H:20][CH:21](CC[OH:10])[C+:22](C)C.[Br-]>>[H:20][OH+:10]CC[CH:21]=[C:22](C)C.[Br-] 10=20;20,21=21,22
[H:20][C:21](CCCCBr)(C(=O)C)[C:22](=[O:23])C.[OH-:10]>>[H:20][OH:10].C[C:22](=[C:21](CCCCBr)C(=O)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CCO)C1(CCCCC1)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CCC(CC1)(O)[O:21]CCO 10=20;20,21=21
C[O:10]C.C[Si:20](C)(C)F>>C[O+:10](C)[Si-:20](C)(C)(C)F 10=20,
CCC1CC[C+:20](C1)C.CC[OH:10]>>CCC1CC[C:20](C1)(C)[OH+:10]CC 10=20,
C1[CH:20]([O:21]1)[O-:10]>>C([CH:20]=[O:10])[O-:21] 10=20;20,21=21
[H:20][CH:21]1C(=C([O+:23]=[C:22]1C2=CC=C(C=C2)OC)C)C3=CC4=C(C=CC=CC4=C3C(=O)OCC)OCC.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CN(C)C=O>>[H:20][OH2+:10].CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C3=C([O:23][C:22](=[CH:21]3)C4=CC=C(C=C4)OC)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CN(C)C=O 10=20;22,23=23;20,21=21,22
[H:20][N+:21](=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CCCCCC)O)N.[OH-:10].C(COCCO)O.O>>[H:20][OH:10].CCCCCCN1CCC23C4C(=[N:21]N)CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.C(COCCO)O.O 10=20;20,21=21
CCCCCCCCC=CCCCCCCC[C:20]([OH2+:21])([OH:10])OCC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=C(C=C1)CO>>CCCCCCCCC=CCCCCCCC[C:20](=[OH+:10])OCC1=CC=CC=C1.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
[B:20](CCCC)(CCCC)OC(=C)CC(C(C)C)OCC1=CC=C(C=C1)OC.C1=CC=C(C=C1)CCC=[O:10].CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>[B-:20](CCCC)(CCCC)(OC(=C)CC(C(C)C)OCC1=CC=C(C=C1)OC)[O+:10]=CCCC2=CC=CC=C2.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20,
C1=CC=C(C=C1)C[NH+:21]=[C:20](C2=C(C=CC=C2)C(=O)O)O.[OH2:10]>>C1=CC=C(C=C1)C[NH:21][C:20](C2=C(C=CC=C2)C(=O)O)([OH2+:10])O 10=20;20,21=21
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
[H:20][CH:21]1CC(CC[C:22]1=[N+:23]2CCN(CC2)C3=CC=CC=C3)OC(=O)C4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1C[C:22](=[CH:21]CC1OC(=O)C2=CC=CC=C2)[N:23]3CCN(CC3)C4=CC=CC=C4.O 10=20;22,23=23;20,21=21,22
[H:20][N+:21](C)(C)C.CN(C)[P:10](OC)Cl>>[H:20][P+:10](N(C)C)(OC)Cl.C[N:21](C)C 10=20;20,21=21
[H:20][C:21]1([C:22](=[O:23])CCC2(C1(C=C3C(CC(C3(CC2)C)C(C)C)O)O)C)CO.C[O:10][Na]>>[H:20][O+:10](C)[Na].CC(C)C1CC(C2=CC3([C:21](=[C:22](CCC3(CCC12C)C)[O-:23])CO)O)O 10=20;22,23=23;20,21=21,22
C[C:11]#[C:10]CCC1[C+:20](CCC(=C(C)C)C1(C)C)C.C(=O)[O-].O>>C[C+:11]=[C:10]1CCC2[C:20]1(CCC(=C(C)C)C2(C)C)C.C(=O)[O-].O 10,11=10,20
C[C:20](=[NH2+:21])N.C[OH:10].[Cl-]>>C[C:20](N)([NH2:21])[OH+:10]C.[Cl-] 10=20;20,21=21
[H:20][O:21]CC1=CC=CC=C1.[H:10][Na:11]>>C1=CC=C(C=C1)C[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CCCC[C:20](=[O:21])C1=C(C=CC(=C1)Br)O.C1CC([NH:10]C1)C2=NN=NN2.C1=CC(=CC=C1C=O)[N+](=O)[O-].C(=O)(C(F)(F)F)O>>CCCC[C:20](C1=C(C=CC(=C1)Br)O)([NH+:10]2CCCC2C3=NN=NN3)[O-:21].C1=CC(=CC=C1C=O)[N+](=O)[O-].C(=O)(C(F)(F)F)O 10=20;20,21=21
